US07728131B2
3,5-dichloro-4-[(S)-3-(dimethylamino)pyrrolidin-1-ylmethyl]benzoic acid
This compound was prepared in the same manner as in Reference Example 1 (step 6), except that methyl 3,5-dichloro-4-[(S)-3-(dimethylamino)pyrrolidin-1-ylmethyl]benzoate obtained in the step 3 was used and methanol was used as the solvent, and that after methanol was added to the residue and the resulting mixture was stirred, insolubles were removed by filtration and the solvent in the filtrate was distilled off under reduced pressure to obtain the objective compound.

reactant | methyl 3,5-dichloro-4-[(S)-3-(dimethylamino)pyrrolidin-1-ylmethyl]benzoate | ClC=1C=C(C(=O)OC)C=C(C1CN1C[C@H](CC1)N(C)C)Cl | C15H20Cl2N2O2
solvent | methanol | CO | CH4O
product | 3,5-dichloro-4-[(S)-3-(dimethylamino)pyrrolidin-1-ylmethyl]benzoic acid | ClC=1C=C(C(=O)O)C=C(C1CN1C[C@H](CC1)N(C)C)Cl | C14H18Cl2N2O2
